US06573289B1
Production of (1H-Imidazol-4-yl)-(6-methoxynaphthalen-2-yl)-(pyridin-3-yl)methanol
(6-Methoxynaphthalen-2-yl)-(pyridin-3-yl)-(1-trityl-1H-imidazol-4-yl)methanol (0.80 g) was dissolved in 90% solution of formic acid (3 ml), and the solution was stirred at 50° C. for 30 min. To the solution was added 1 N-hydrochloric acid, and precipitate was filtered off. The filtrate was washed with ether, and neutralized with potassium carbonate. The filtrate was extracted with chloroform and concentrated. The residue was purified by silica gel column chromatography (eluent, chloroform:methanol=5:1). Recrystallization from THF gave the titled compound (0.36 g) as a colorless powder.

reactant | (6-Methoxynaphthalen-2-yl)-(pyridin-3-yl)-(1-trityl-1H-imidazol-4-yl)methanol | 0.80 g | COC=1C=C2C=CC(=CC2=CC1)C(O)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=NC=CC1 | C39H31N3O2
reactant | hydrochloric acid | Cl | ClH
solvent | formic acid | 3 ml | C(=O)O | CH2O2
product | (1H-Imidazol-4-yl)-(6-methoxynaphthalen-2-yl)-(pyridin-3-yl)methanol | 0.36 g | N1C=NC(=C1)C(O)(C=1C=NC=CC1)C1=CC2=CC=C(C=C2C=C1)OC | C20H17N3O2
